US05041462
Preparation of 2-(acetoxyacetylamino)-6-morpholinobenzonitrile:
To a solution of 2-amino-6-morpholinobenzonitrile (5.6 g) in pyridine (15 ml) is added dropwise acetoxyacetyl chloride (3.3 ml) which is cooled in an ice bath. The mixture is stirred at room temperature for 1 hour, and thereafter, pyridine is distilled off under reduced pressure and thereto is added water, and the mixture is extracted with methylene chloride. The organic layer is dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The resulting residue is recrystallized from ethanol-toluene-water to give the title compound (4.7 g) having the following physical properties.

reactant | 2-amino-6-morpholinobenzonitrile | 5.6 g | NC1=C(C#N)C(=CC=C1)N1CCOCC1 | C11H13N3O
reactant | acetoxyacetyl chloride | 3.3 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-(acetoxyacetylamino)-6-morpholinobenzonitrile | 4.7 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)N1CCOCC1 | C15H17N3O4
